US04952699
Synthesis of 4-n-octyloxyphenyl 4-(2-n-nonyl-1,3,4-thiadiazole-5-yl)benzoate
4-(2-n-Nonyl-1,3,4-thiadiazole-5-yl)-benzoic acid (0.005 moles, 1.66 g) is reacted with 5 mL of thionyl chloride and heated 2 hours at the boiling point. After that, the excess thionyl chloride is distilled off in the rotary evaporator and the residue is treated with 0.006 moles (1.33 g) octyloxyphenol, dissolved in 20 mL toluene, 5 mL triethylamine and 100 mg 4-dimethylaminopyridine.

reactant | 4-(2-n-Nonyl-1,3,4-thiadiazole-5-yl)-benzoic acid | 0.005 moles, 1.66 g | C(CCCCCCCC)C=1SC(=NN1)C1=CC=C(C(=O)O)C=C1 | C18H24N2O2S
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | octyloxyphenol | 0.006 moles, 1.33 g | C(CCCCCCC)OC1=C(C=CC=C1)O | C14H22O2
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-n-octyloxyphenyl 4-(2-n-nonyl-1,3,4-thiadiazole-5-yl)benzoate | C(CCCCCCCC)C=1SC(=NN1)C1=CC=C(C(=O)OC2=CC=C(C=C2)OCCCCCCCC)C=C1 | C32H44N2O3S
